US06441184B1
A solution of triphenylphosphine (274 mg, 1.04 mmol) in methylene chloride (6 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (211 mg, 1.18 mmol). The resulting brownish-purple mixture was stirred at 0° C. for 5 min until the reaction mixture was homogeneous. The reaction mixture was then treated with 3-cyclopentyl-2(R)-(3,4-dichloro-phenyl)-propionic acid (200 mg, 0.70 mmol). The resulting reaction mixture was stirred at 0° C. for 20 min and then allowed to warm to 25° C. where it was stirred for 30 min. The reaction mixture was then treated with 2-aminobenzothiazole (157 mg, 1.04 mmol) and pyridine (0.17 mL, 2.09 mmol), and the reaction mixture was allowed to stir at 25° C. for 20 h. The resulting reaction mixture was diluted with water (15 mL) and then extracted with methylene chloride (3×15 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 85/15 hexanes/ethyl acetate) afforded N-benzothiazol-2-yl-3-cyclopentyl-2(R)-(3,4-dichloro-phenyl)-propionamide (221 mg, 76%) as a yellow foam: [α]23589=−42.4° (c=0.092, chloroform); EI-HRMS m/e calcd for C21H20Cl2N2OS (M+) 418.0673, found 418.0672.

reactant | triphenylphosphine | 1.04 mmol, 274 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1.18 mmol, 211 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2(R)-(3,4-dichloro-phenyl)-propionic acid | 0.70 mmol, 200 mg | C1(CCCC1)C[C@@H](C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H16Cl2O2
reactant | 2-aminobenzothiazole | 1.04 mmol, 157 mg | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | pyridine | 2.09 mmol, 0.17 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | water | 15 mL | O | H2O
product | N-benzothiazol-2-yl-3-cyclopentyl-2(R)-(3,4-dichloro-phenyl)-propionamide | 221 mg, 76% | S1C(=NC2=C1C=CC=C2)NC([C@H](CC2CCCC2)C2=CC(=C(C=C2)Cl)Cl)=O | C21H20Cl2N2OS
